US03944560
The 3-amino-4-cyano-6-benzyloxy-3,4-dihydro-2H-1,5-benzodioxepin and/or its 9-benzyloxy isomer is converted to 3-oxo-6-benzyloxy-3,4-dihydro-2H-1,5-benzodioxepin by the procedure described in Example 1, Step C, and the 3-keto compound then reacted with potassium cyanide by either the process of Step D of Example 1 or the alternative procedure there described to provide 3-hydroxy-3-cyano-6-benzyloxy-3,4-dihydro-2H-1,5-benzodioxepin. This product then is reduced with lithium aluminum hydride by the method outlined in the alternate of Step E, Example 1, to give 3-hydroxy-3-aminomethyl-6-benzyloxy-3,4-dihydro-2H-1,5-benzodioxepin which when reacted with acetone and then reduced by the process of Step F, Example 1, there is obtained 3,6-dihydroxy-3-isopropylaminomethyl-3,4-dihydro-2H-1,5-benzodioxepin hydrochloride.

reactant | 3-amino-4-cyano-6-benzyloxy-3,4-dihydro-2H-1,5-benzodioxepin | NC1C(OC2=C(OC1)C=CC=C2OCC2=CC=CC=C2)C#N | C17H16N2O3
reactant | 3-oxo-6-benzyloxy-3,4-dihydro-2H-1,5-benzodioxepin | O=C1COC2=C(OC1)C=CC=C2OCC2=CC=CC=C2 | C16H14O4
reactant | potassium cyanide | [C-]#N.[K+]
product | 3-hydroxy-3-cyano-6-benzyloxy-3,4-dihydro-2H-1,5-benzodioxepin | OC1(COC2=C(OC1)C=CC=C2OCC2=CC=CC=C2)C#N | C17H15NO4
